US05783522
2-(4-Chloro-3-methoxyphenyl)-5-trifluoromethyl-3-methoxypyridine (Table 6, Example I.904)
33.5 g of a 30% strength methanolic solution of sodium methoxide were added to a solution of 3.0 g (9.3 mmol) of 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine in 100 ml of methanol. The mixture was refluxed for 20 h and then poured into about 500 ml of ice-water. The product was extracted from the aqueous phase with 3×100 ml of methylene chloride. The combined organic phases were dried over sodium sulfate and concentrated. The oily residue was induced to crystallize by trituration with n-hexane. Yield: 1.3 g of colorless crystals; melting point: 62°-63° C. (purity about 85%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine | 9.3 mmol, 3.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC | C13H8Cl2F3NO
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-Chloro-3-methoxyphenyl)-5-trifluoromethyl-3-methoxypyridine | ClC1=C(C=C(C=C1)C1=NC=C(C=C1OC)C(F)(F)F)OC | C14H11ClF3NO2
